US06689806B1
Ethyl isocyanate (0.633 mL, 8 mmol) was added dropwise to a stirred mixture of 4-(2-hydroxy-ethyl)-1,3-dihydro-indol-2-one (709 mg, 4 mmol) in tetrahydrofuran (8 mL) and dimethylforamide (2 mL) under nitrogen atmosphere. The mixture was heated at 80° C. for 48 hours. The reaction was cooled, poured into water (100 mL) and extracted with ethyl acetate (200 mL). The organic layer was washed with brine, dried over anhydrous sodium sulfate and concentrated. The residue was chromatographed on silica gel eluting with ethyl acetate/hexane to give 158 mg (16%) of ethyl-carbamic acid 2-(2-oxo-2,3-dihydro-1H-indol-4-yl)-ethyl ester as a white powder.

reactant | Ethyl isocyanate | 8 mmol, 0.633 mL | C(C)N=C=O | C3H5NO
reactant | 4-(2-hydroxy-ethyl)-1,3-dihydro-indol-2-one | 4 mmol, 709 mg | OCCC1=C2CC(NC2=CC=C1)=O | C10H11NO2
reactant | water | 100 mL | O | H2O
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | dimethylforamide | 2 mL | CN(C=O)C | C3H7NO
product | ethyl-carbamic acid 2-(2-oxo-2,3-dihydro-1H-indol-4-yl)-ethyl ester | 158 mg, 16% | O=C1NC2=CC=CC(=C2C1)CCOC(NCC)=O | C13H16N2O3
